US08426420B2
ii) 3-Amino-pyrrolidine-1-carboxylic acid benzyl ester hydrotrifluoroacetate
To a solution of 3.21 g 3-tert-butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester in 40 ml dichloromethane were added 13 ml TFA. After 16 h the solution was evaporated to give the crude hydrotrifluoroacetate. Yield: 3.20 g.

reactant | 3-tert-butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester | 3.21 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)NC(=O)OC(C)(C)C | C17H24N2O4
reactant | TFA | 13 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-Amino-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)N | C12H16N2O2
